### PR TITLE
[Merged by Bors] - feat(Data/Nat/Squarefree): add coprime_of_squarefree_mul

### PR DESCRIPTION
**Pull request by amellendijk**
Add a lemma stating that two natural numbers are coprime if their product is squarefree.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Squarefree.lean [hunk 1]
```diff
@@ -374,6 +374,11 @@ theorem squarefree_mul {m n : ℕ} (hmn : m.coprime n) :
   simp only [hmn.isPrimePow_dvd_mul (hp.isPrimePow.pow two_ne_zero), not_or]
 #align nat.squarefree_mul Nat.squarefree_mul
 
+theorem coprime_of_squarefree_mul {m n : ℕ} (h : Squarefree (m * n)) : m.coprime n := by
+  by_contra h_ncop
+  cases' Prime.not_coprime_iff_dvd.mp h_ncop with p hp
+  exact (squarefree_iff_prime_squarefree.mp h) p hp.1 $ mul_dvd_mul hp.2.1 hp.2.2
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Squarefree.lean:380]: If you prefer, this could also be
```suggestion
theorem coprime_of_squarefree_mul {m n : ℕ} (h : Squarefree (m * n)) : m.coprime n :=
  coprime_of_dvd fun k hp ha hb => (squarefree_iff_prime_squarefree.mp h) k hp (mul_dvd_mul ha hb)
```

Comment (FLDutchmann) [reply Mathlib/Data/Nat/Squarefree.lean]: Nice golf! I've changed the proof.

**Comment by urkud** [comment]
Should we have `Squarefree (m * n) ↔ Squarefree m ∧ Squarefree n ∧ m.coprime n`?

**Comment by FLDutchmann** [comment]
> Should we have `Squarefree (m * n) ↔ Squarefree m ∧ Squarefree n ∧ m.coprime n`?

This seems reasonable enough. I've added it with the conjunction reordered so that the `Squarefree`s are grouped together

**Comment by ocfnash** [comment]
bors merge
